US05883255
(±)-7-[1-[(Aminoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one Hydrotrifluoroacetate
To a stirring suspension of (±)-8-methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one (1.15 g, 2.5 mmol) in 1,3-dimethoxybenzene (12 mL) under an argon atmosphere was added trifluoroacetic acid (13 mL). After stirring for 1.5 h at room temperature, the mixture was concentrated under reduced pressure. The residue was dissolved in H2O, extracted with Et2O, filtered and lyophilized to afford the title compound as a pale yellow solid. 1H NMR (DMSO-d6) d 8.68 (s, 1H), 8.24 (m, 1H), 8.13 (m, 1H), 7.86 (apparent br t, 1H), 7.70 (apparent br t, 1H), 7.19 (s, 1H), 5.91 (apparent br t, 1H), 5.26 (s, 2H), 4.02 (br s, 2H), 2.25 (s, 3H), 2.06-1.81 (m, 2H), 0.96 (t, J=7.2Hz, 3H). Anal. Calcd for C21H21N3O3.CF3CO2H.9/4 H2O; C, 53.33; H, 5.16; N, 8.11. Found: C, 53.09; H, 4.91; N, 7.74.

reactant | (±)-8-methyl-7-[1-[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one | 2.5 mmol, 1.15 g | CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)OC(CNC(=O)OC(C)(C)C)=O)=O | C26H29N3O5
reactant | trifluoroacetic acid | 13 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,3-dimethoxybenzene | 12 mL | COC1=CC(=CC=C1)OC | C8H10O2
product | (±)-7-[1-[(Aminoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | NCC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C21H21N3O3
